US07273877B2
2,3,4,5,6-Pentafluorophenyl-4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate was reacted with 3-aminopropanol in THF in the presence of DIEA as for example 4, step B. The reaction solvent was removed under reduced pressure and the resulting oil purified by chromatography on silica gel (50% acetone/CH2Cl2) to give 4-(2-fluoro-4-iodoanilino)-N-(3-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (95%), m.p. (Et2O) 81-86° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.11 (s, 1H), 8.40 (br s, 1H), 8.24 (s, 1H), 7.74 (d, J=9.7 Hz, 1H), 7.58 (d, J=8.2 Hz, 1H), 7.29 (t, J=8.5 Hz, 1H), 5.59 (s, 1H), 4.48 (t, J=5.1 Hz, 1H), 3.48 (q, J=5.7 Hz, 2H), 3.37 (s, 3H), 3.30-3.24 (m, 2H), 1.67 (pentet, J=6.7 Hz, 2H). Anal. Calcd for C16H17FIN3O3.0.5H2O: C, 42.3; H, 4.0; N, 9.3. Found: C, 42.2; H, 3.8; N, 9.1.

reactant | 2,3,4,5,6-Pentafluorophenyl-4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(C(=C(C(=C1F)F)F)F)C=1N(C(C=C(C1C(=O)[O-])NC1=C(C=C(C=C1)I)F)=O)C
reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-iodoanilino)-N-(3-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 95% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCCCO)C=CC(=C1)I | C16H17FIN3O3
